US07011838B2
First, 20 ml of tetrahydrofuran was added dropwise slowly to the mixture of 0.50 g of dihydro tetrakis(triphenylphosphine)ruthenium and 3.00 g of (4-(trifluoromethyl)benzyl)malononitrile under an atmosphere of nitrogen , followed by stirring for 15 minutes. Then, 0.82 g of acrolein was added dropwise slowly, followed by stirring for 1 hour at room temperature and then the solvent was distilled away. The residue was subjected to silica gel column chromatography to give 1.58 g of 2-(2-formylethyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the intermediate (19)).

reactant | (4-(trifluoromethyl)benzyl)malononitrile | 3.00 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | acrolein | 0.82 g | C(=O)C=C | C3H4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(2-formylethyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 1.58 g, Yield: 42% | C(=O)CCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F | C14H11F3N2O
